US08497397B2
(89b) (4Z)-2-[4-(4-Ethylphenoxy)phenyl]-4-(4-isopropoxybenzylidene)-1,3-oxazol-5(4H)-one
A mixture of N-[4-(4-ethylphenoxy)benzoyl]glycine (200 mg, 0.668 mmol) prepared in Example 89 (89a) and acetic anhydride (0.38 mL, 4.03 mmol) was stirred at 80° C. for 20 minutes. Ethyl acetate was added to the reaction mixture, and then the mixture was cooled to room temperature. The solvent was evaporated, and then the residue was purified by silica gel column chromatography (hexane:ethyl acetate, 3:1, v/v) to give 2-[4-(4-ethylphenoxy)phenyl]-1,3-oxazol-5(4H)-one (120 mg, 0.427 mmol). All of this 2-[4-(4-ethylphenoxy)phenyl]-1,3-oxazol-5(4H)-one was dissolved in benzene (0.9 mL), and then 4-isopropoxybenzaldehyde (71 mg, 0.432 mmol) and triethylamine (24 μL, 0.172 mmol) were added thereto. The mixture was stirred at 90° C. for 2 hours. After the addition of water to the reaction solution, the mixture was extracted with a solvent mixture of hexane and ethyl acetate. The organic layers were combined, washed with saturated brine, dried over anhydrous sodium sulfate, and then concentrated to give 181 mg of the title compound (brown oil, yield: 99%).

reactant | 2-[4-(4-ethylphenoxy)phenyl]-1,3-oxazol-5(4H)-one | C(C)C1=CC=C(OC2=CC=C(C=C2)C=2OC(CN2)=O)C=C1 | C17H15NO3
reactant | 4-isopropoxybenzaldehyde | 0.432 mmol, 71 mg | C(C)(C)OC1=CC=C(C=O)C=C1 | C10H12O2
reactant | triethylamine | 0.172 mmol, 24 μL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | benzene | 0.9 mL | C1=CC=CC=C1 | C6H6
product | (4Z)-2-[4-(4-Ethylphenoxy)phenyl]-4-(4-isopropoxybenzylidene)-1,3-oxazol-5(4H)-one | 181 mg, yield: 99% | C(C)C1=CC=C(OC2=CC=C(C=C2)C=2OC(/C(/N2)=C/C2=CC=C(C=C2)OC(C)C)=O)C=C1 | C27H25NO4
